US04719047
Using the reductive amination procedure outlined in 1, 10-chloro-anthracene-9-carbaldehyde (Aldrich) and 2-amino-2-methyl-1,3-propanediol (Aldrich) gave 2-((10-chloro-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride mp 268°-269° (dec), (CH3OH/Et2O), (C,H,Cl,N).

reactant | 10-chloro-anthracene-9-carbaldehyde | ClC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C15H9ClO
reactant | 2-amino-2-methyl-1,3-propanediol | NC(CO)(CO)C | C4H11NO2
product | 2-((10-chloro-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride | Cl.ClC1=C2C=CC=CC2=C(C2=CC=CC=C12)CNC(CO)(CO)C | InChI=1S/C19H20ClNO2.ClH/c1-19(11-22,12-23)21-10-17-13-6-2-4-8-15(13)18(20)16-9-5-3-7-14(16)17;/h2-9,21-23H,10-12H2,1H3;1H
